Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo M with h/o B12 deficiency, OSA, obesity, 
who presents with 2 weeks of progressive weakness, 
lightheadedness, fatigue and dyspnea on exertion.  He states 
that over the past few weeks he has noticed to progressive onset 
and worsening of these symptoms in the setting chronic HA and 
chronic sinusitis symptoms.  He states that his appetite has 
been low and he has lost 10 lbs over the past month.  He also 
reports episodes of nausea/vomiting.  With this, he has noted 
chest pain as well.  He states that he has not had bloody BMs 
but has had "dark" stool, almost black perhaps though he is not 
sure.  He denies abd pain.  He reports chronic sinus congestion 
and pressure which preceeded these symptoms, as well as his 
chronic HA.  He notes no new medications.  He does take 
Ibuprofen for his HA, 600-800mg ___ times per day, 4 days per 
week for several months.  He denies easy bruising, fever, vision 
change, pain with swallowing, leg pain.  He does occasionally 
have leg swelling and nocturia.  He denies recent travel outside 
this area.  He has not taken any B12 supplementation in over ___ 
yr.

10 point review of systems reviewed, otherwise negative except 
as listed above
 
Past Medical History:
Headache, migraine, with status migrainosus 
Sleep apnea 
Obesity 
Adjustment disorder with depressed mood 
B12 deficiency 

 
Social History:
___
Family History:
Reviewed, non pertinent to this hospitalization
 
Physical Exam:
Admission Exam:
VS: 98.0 PO 147 / 91 76 18 100 RA 
GEN: obese well appearing in NAD
HEENT; MMM, conjunctiva pale, no icterus
NECK: supple no LAD
HEART: RRR no mrg
LUNG: CTAB no wheezes or crackles
ABD: soft ND, mild LLQ TTP no rebound or guarding
EXT: warm well perfused.  trace edema bilaterally
SKIN: no rashes, bruising, or petechiae noted
NEURO: no focal deficits
 
Discharge Exam:
Vitals: 98.5PO 142 / 88 69 16 96% RA 
Pain Scale: ___
General: Patient appears well, calm, cooperative laying in bed 
in
NAD, pleasant, appropriate and interactive
HEENT: Sclera anicteric but pale, MMM
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
no murmurs, rubs or gallops appreciated
Abdomen: Soft, NT, ND, NABS throughout
Ext: Warm, well perfused, full distal pulses, no clubbing,
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric

 
Pertinent Results:
Admission Labs:
___ 05:49PM   WBC-5.5 RBC-1.93*# HGB-6.4*# HCT-19.3* 
MCV-100* MCH-33.2* MCHC-33.2 RDW-26.5* RDWSD-94.4*
___ 11:13AM URINE  HOURS-RANDOM
___ 11:13AM URINE  UHOLD-HOLD
___ 11:13AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:13AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-6.5 
LEUK-NEG
___ 11:13AM URINE  RBC-2 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 11:13AM URINE  HYALINE-12*
___ 11:13AM URINE  MUCOUS-FEW
___ 10:20AM   HGB-5.0* calcHCT-15
___ 09:54AM   LD(LDH)-4387* TOT BILI-1.9*
___ 09:54AM   CALCIUM-9.0 PHOSPHATE-3.5 MAGNESIUM-1.9
___ 09:54AM   WBC-5.6 RBC-UNABLE TO  HGB-5.1*# HCT-17.0*# 
MCV-UNABLE TO  MCH-UNABLE TO  MCHC-UNABLE TO  RDW-UNABLE TO  
RDWSD-UNABLE TO 
___ 09:54AM   NEUTS-51.5 ___ MONOS-4.1* EOS-3.6 
BASOS-0.2 NUC RBCS-0.9* IM ___ AbsNeut-2.86 AbsLymp-2.14 
AbsMono-0.23 AbsEos-0.20 AbsBaso-0.01
___ 09:54AM   HYPOCHROM-1+ ANISOCYT-3+ POIKILOCY-1+ 
MACROCYT-3+ MICROCYT-1+ POLYCHROM-OCCASIONAL SCHISTOCY-1+ 
TEARDROP-1+
___ 09:54AM   PLT COUNT-179#
___ 09:54AM   ___ PTT-25.0 ___
___ 09:54AM   RET MAN-1.4 ABS RET-Unable to 
  

Atrius B12: 50, low, stable

Discharge Labs:
___ 09:10AM BLOOD WBC-3.4* RBC-2.63* Hgb-8.6* Hct-25.6* 
MCV-97 MCH-32.7* MCHC-33.6 RDW-24.7* RDWSD-80.1* Plt ___
___ 09:10AM BLOOD Neuts-40 Bands-1 ___ Monos-7 Eos-9* 
Baso-0 Atyps-3* Metas-1* Myelos-2* AbsNeut-1.39* AbsLymp-1.36 
AbsMono-0.24 AbsEos-0.31 AbsBaso-0.00*
___ 09:10AM BLOOD ___ PTT-30.4 ___
___ 09:54AM BLOOD Ret Man-1.4 Abs Ret-Unable to 
___ 07:07AM BLOOD Ret Aut-1.9 Abs Ret-0.05
___ 06:44AM BLOOD Glucose-99 UreaN-9 Creat-0.9 Na-138 K-4.0 
Cl-103 HCO3-27 AnGap-12
___ 06:44AM BLOOD ALT-46* AST-72* LD(LDH)-4430* AlkPhos-46 
TotBili-1.9*
___ 06:44AM BLOOD Calcium-8.5 Phos-4.3 Mg-1.9
  

CT ABD:
IMPRESSION: 
1. No acute intra-abdominal process to explain abdominal pain. 
2. 4 mm right lower lobe lung nodule.  If the patient has low 
risk for lung  cancer, no follow-up is required.  If the patient 
has risk factors for lung  cancer, a follow-up CT in ___ year is 
recommended. 
 
CXR:   
No acute cardiopulmonary process 

 
Brief Hospital Course:
___ yo man with obesity, sleep apnea, and B12 deficiency recently 
treated for sinusitis who presents with subacute fatigue, 
lightheadedness, DOE, found to have acute symptomatic anemia.
     
# Acute anemia, hemolytic:
Hemolytic anemia most likely as supported by indirect 
hyperbilirubinemia and udetectable haptoglobin. Hematology was 
consulted and smear reviwed reveaing abnormal appearance of 
cells and many schistocytes. Based on hematology assessment, 
seems most likely severe B12 deficiency which can cause 
fragility and widespread hemolysis. However, high LDH and 
dropping platelets, TTP was considered, however, felt less 
likely. DAT on admission labs negative. He initially received 4 
units pRBCs between ED and admission, but during course his Hct 
remained stable therafter. Since his Plt and Hct remained 
largely stable and clinical context did not fit for TTP the 
final diagnosis was thought severe vitamin B12 deficiency and he 
was started on IM B12 and PO Folate. He will continue weekly B12 
injections with PCP and daily ___ and follow up with 
Hematology in 1 month. Anti-Parietal Ab and Intrinsic Factor 
levels pending on discharge. 
  
# Chronic Sinusitis:
# Chronic Cough
Chronic.  Started on Clindamycin day prior to admission but 
clinically he did not have acute bacterial inusitis symptoms so 
ABx discontinued. Chronic cough likely post-nasal drip. Started 
Fluticasone nasal spray
  
# Migraines:
Chronic, stable, current HA is unchanged from chronic baseline 
headache for years and there are no focal neuro signs or 
symptoms to suggest acute bleed. Monitored and treated with 
Tylenol.
    
# h/o B12 deficiency:
Significant Low in atrius records from last visit, normal on 
admission though this was s/p B12 supplementation in clinic. 
Restarted B12 IM as above
 
Transitional Issues:
- Lung nodule seen on imaging, this was <4mm and the patient has 
no risk factors for lung cancer, so based on criteria as stated 
in radiology read, no follow up is required. The patient was 
notified of this finding, however, while inpatient and 
recommended he follow up with his PCP regarding further care.
- Follow up pending IF and anti-parietal Ab
- Weekly IM B12 injections
    

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 240 mg PO Q24H 
2. Ibuprofen 800 mg PO Q8H:PRN Headache 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Clindamycin 300 mg PO Q6H 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
2.  Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (FR) 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg/mL 1000 mcg IM 
___ Disp #*10 Vial Refills:*0 
3.  FoLIC Acid 5 mg PO DAILY 
RX *folic acid 1 mg 5 tablet(s) by mouth Daily Disp #*150 Tablet 
Refills:*0 
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  Ibuprofen 800 mg PO Q8H:PRN Headache  
6.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active:
- Vitamin B12 deficiency
- Hemolytic Anemia
 
Chronic:
- Chronic macrocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,
   
It was a pleasure treating you during this hospitalization. You 
were admitted to ___ with weakness and shortness of breath, 
found to have severely low blood levels, called anemia. This was 
thought related to hemolysis, which is your red blood cells 
breaking apart. After work up it was revealed that you have 
severe vitamin B12 deficiency as the cause of the hemolysis. It 
is imperative you continue to take vitamin B12 to ensure your 
blood levels return to normal. Please follow up with your 
primary care physician and your hematologist. 
 
Followup Instructions:
___